US07632851B2
a) (4-bromo-phenyl)-(2-fluoro-ethyl)-carbamic acid benzyl ester
2.9 g (6 mmol) toluene-4-methanesulfonic acid 2-[benzyloxycarbonyl-(4-bromo-phenyl)-amino]-ethyl ester are dissolved in 100 mL THF and stirred for 18 hours at room temperature after addition of a 1 M solution of tetrabutyl-ammonium fluoride in THF. The reaction mixture is poured onto ice and extracted with tertbutyl-methyl ether and a saturated aqueous solution of sodium bicarbonate. The combined organic phases are washed with brine, dried with sodium sulfate and evaporated to dryness. The crude product is column chromatographed (petroleum ether/ethyl acetate 4:1) to yield 920 mg desired product as a yellow resin. MS(ES+): 352 (M+1).

reactant | toluene-4-methanesulfonic acid 2-[benzyloxycarbonyl-(4-bromo-phenyl)-amino]-ethyl ester | 6 mmol, 2.9 g | C(C1=CC=CC=C1)OC(=O)N(CCOS(=O)(=O)CC1=CC=C(C=C1)C)C1=CC=C(C=C1)Br | C24H24BrNO5S
reactant | tetrabutyl-ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-bromo-phenyl)-(2-fluoro-ethyl)-carbamic acid benzyl ester | 920 mg | C(C1=CC=CC=C1)OC(N(CCF)C1=CC=C(C=C1)Br)=O | C16H15BrFNO2
